Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Headache x 1 week
 
Major Surgical or Invasive Procedure:
Conventional Angiography ___ - normal vessels
 
History of Present Illness:
Mr. ___ is a ___ right-handed man with history
notable for a right occipital ICH (with mild residual left 
visual
field loss) and ___ transferred from OSH after
presenting with seven days of headaches, found to have recurrent
ICH.

Mr. ___ reports sudden onset of a throbbing, holocephalic
but most prominently bifrontal headache last ___ after 
waking.
He felt that his headache was not as severe as his prior ICH, 
and
initially ascribed it to a viral URI given the onset of cough,
congestion, and rhinorrhea the evening prior. He opted to manage
the headache conservatively with acetaminophen. This approach 
was
initially effective, though his residual headache worsened from
___ through ___, gradually prompting him to work from
home. Aside from the headache, he denies vision change, focal
weakness, paresthesiae, dysphagia, dysarthria, gait disturbance,
or changes in bowel or bladder continence. This morning, given
his persistent and progressive headache, he presented to an OSH,
where imaging revealed a recurrent right occipital IPH with IVE.
He subsequently contacted his outpatient neurologist, who
recommended transfer to ___. 

Of note, Mr. ___ denies recent falls or a history of HTN. 
He
was previously followed by Dr. ___ a prior R occipital 
ICH
in ___, following which he reportedly had an unremarkable
CT angiogram of the head and neck, as well as a brain MRI that,
by report, revealed "a few microhemorrhages" that were not
noticeable on Dr. ___ of the imaging.

 
Past Medical History:
Hypothyroidism
R occipital ICH ___
 
Social History:
___
Family History:
History of stroke in the setting of dementia in
his mother as well as dementia in his father.
 
Physical Exam:
Admission exam:
===============
 Gen: pleasant, cooperative, in NAD
 HEENT: NCAT, neck supple
 ___: RRR
 Pulmonary: no tachypnea or increased WOB
 Abdomen: ND
 Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, able to name ___ backward
without difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact. No
dysarthria. Able to follow both midline and appendicular
commands.

- Cranial Nerves: PERRL (3 to 2 mm ___. Left-sided superior and
inferior visual field deficit, more prominent in left eye than
right. V1-V3 without deficits to light touch bilaterally. No
facial movement asymmetry. Hearing intact to conversation
bilaterally. Palatal elevation symmetric. Trapezius strength ___
bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No drift.
   [Delt][Bic][Tri][ECR][FEx][IP][Quad][Ham][TA]
 L   5     5    5    5    5   5    5     5   5  
 R   5     5    5    5    5   5    5     5   5  
  
- Reflexes: 
    [Bic] [Tri] [___] [Quad] [Gastroc]
  L  2+    2+     2+      2+       1+
  R  2+    2+     2+      2+       1+ 

- Sensory: No deficits to light touch or pinprick bilaterally. 
No extinction to DSS.

- Coordination: No dysmetria with finger to nose or heel to shin
testing bilaterally.

- Gait: Narrow-based and steady.

================
Discharge exam: unchanged from admission
 
Pertinent Results:
Admission Labs:
___ 02:20PM BLOOD CK-MB-2 cTropnT-<0.01
___ 02:10AM BLOOD Calcium-8.7 Phos-3.2 Mg-2.3
___ 05:29PM BLOOD Glucose-109* UreaN-12 Creat-1.0 Na-141 
K-3.8 Cl-106 HCO3-23 AnGap-12
___ 02:10AM BLOOD WBC-6.0 RBC-4.58* Hgb-13.8 Hct-39.8* 
MCV-87 MCH-30.1 MCHC-34.7 RDW-11.6 RDWSD-37.0 Plt ___
___ 02:10AM BLOOD ___ PTT-33.5 ___

Imaging

MRI brain ___: 
1. No significant change in size of the subacute 
intraparenchymal hemorrhage 
in the posterior right medial temporal lobe with a small amount 
of 
intraventricular extension and minimal surrounding vasogenic 
edema.  No 
evidence of associated vascular malformation. 
2. Additional scattered foci susceptibility involving the 
bilateral superior 
frontal gyri, left occipital lobe and medial right occipital 
lobe possibly 
represent old microhemorrhages.  Cerebral amyloid angiopathy is 
a 
consideration given predominantly cortical distribution. 
3. Moderate white matter FLAIR hyperintensities are nonspecific 
but compatible 
with small vessel disease. 
4. Moderate paranasal sinus inflammatory changes as described 
above. 

Angiography ___:
Normal angiogram.  No etiology for right occipital hemorrhage 
identified.

CTA ___:
1.  Dental amalgam streak artifact limits study. 
2. Grossly stable 3.0 x 1.0 cm posterior right medial temporal 
lobe 
intraparenchymal hemorrhage with surrounding vasogenic edema and 
minimal local 
mass effect. 
3. Small intraventricular hemorrhage layering in the right 
lateral ventricle 
is also unchanged. 
4. No evidence for acute vascular territorial infarction by CT.  
Please note 
MRI of the brain is more sensitive for the detection of acute 
infarct. 
5. Patent intracranial and cervical vasculature without 
high-grade stenosis, 
occlusion, or aneurysm greater than 3 mm. 
6. Multifocal paranasal sinus disease, as detailed above. 
7. Multinodular thyroid, with nodules measuring up to 1.5 cm on 
the left. 
8. Paranasal sinus disease , as described. 
 
Brief Hospital Course:
___ year old ___ with history of a right occipital ICH in 
___ (residual mild left visual field loss) who presented with 1 
week of headache. Found to have new right posterior 
parieto-occipital bleed. Besides the left visual field deficit, 
no new deficits on this admission.

# Right occipital IPH: MR brain was obtained which showed R 
posterior parietal hemorrhage with intraventricular blood. Blood 
pressures were monitored to maintain systolic blood pressures 
<150mmHg. Patient underwent angiography on ___ without 
complications, which showed normal vessels. We discussed the 
possibility that a vessel abnormality could be obscured by the 
acute blood. The likely possibility of CAA as underlying 
diagnosis was discussed.

___ exam: Normal mental status, independently ambulatory. 
Mild left homonymous visual field deficit (from prior stroke), 
without clear worsening this admission.

CHRONIC ISSUES:
#Endo: home levothyroxine was continued.

Transitional issues:
- Incidentally noted thyroid nodules on imaging. Please follow 
up thyroid studies and consider thyroid ultrasound.
- Patient should receive neuropsych/cognitive evaluation as 
baseline after discharge, and re-evaluate over time

 ========================================  
 AHA/ASA Core Measures for Intracerebral Hemorrhage  
 1. Dysphagia screening before any PO intake? (x) Yes - () No  
 2. DVT Prophylaxis administered? (x) Yes - () No  
 3. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
 4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
 5. Assessment for rehabilitation and/or rehab services 
considered? (x) Yes - () No  
 
Medications on Admission:
Levothyroxine
 
Discharge Medications:
Levothyroxine
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hemorrhagic Stroke
Cerebral Amyloid Angiopathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

 You were hospitalized due to symptoms of resulting from a 
HEMORRHAGIC STROKE, a condition where there is bleeding into the 
brain. We diagnosed you with CEREBRAL AMYLOID ANGIOPATHY, a 
condition which leads to abnormal protein in blood vessels that 
leads to easy bleeding, based on the presence of additional 
small bleeds on MRI. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  

 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  

Cerebral Amyloid Angiopathy

 We are not making any changes in your medications.

 Please take your other medications as prescribed.  

Please avoid medications that can cause bleeding such as aspirin 
and NSAIDs. Please follow up with your primary care doctor to 
make sure you continue to have normal blood pressure and live a 
healthy lifestyle.

 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

 Sincerely,  
 Your ___ Neurology Team  
 
Followup Instructions:
___